US08426437B2
5-Phenylmethanesulfonyl-1,3-dihydro-indol-2-one was prepared according to the method described by Jiong Jack Chen et al. (Organic Process Research and Development, 2003, 7, 313-317) from 1 g (4.32 mmol) of 2-oxo-2,3-dihydro-1H-indole-5-sulfonyl chloride and 0.51 mL (4.32 mmol) of bromomethyl-benzene. After filtration and washing with acetone, 1.08 g (87%) of 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one is obtained in the form of a white solid.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-sulfonyl chloride | 4.32 mmol, 1 g | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)Cl | C8H6ClNO3S
reactant | bromomethyl-benzene | 4.32 mmol, 0.51 mL | BrCC1=CC=CC=C1 | C7H7Br
product | 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | 1.08 g, 87% | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
